US06759554B2
3-Butoxybenzonitrile
A test tube was charged with CuI (20 mg, 0.10 mmol, 10 mol %), 5-methyl-1,10-phenanthroline (39 mg, 0.20 mmol, 20 mol %), Cs2CO3 (652 mg, 2.0 mmol), 3-iodobenzonitrile (229 mg, 1.0 mmol), n-butanol (366 μL, 4.0 mmol) and toluene (1 mL). The test tube was sealed and the reaction mixture was stirred at 110° C. for 28 h. The resulting suspension was cooled to room temperature and filtered through a 0.5×1 cm pad of silica gel eluting with ethyl acetate. The filtrate was concentrated. Purification of the residue by flash chromatography on silica gel (2×20 cm; hexane/ethyl acetate 30:1) provided 152 mg (87% yield) of the title compound as a colorless oil.

reactant | 5-methyl-1,10-phenanthroline | 0.20 mmol, 39 mg | CC1=C2C=CC=NC2=C2N=CC=CC2=C1 | C13H10N2
reactant | Cs2CO3 | 2.0 mmol, 652 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-iodobenzonitrile | 1.0 mmol, 229 mg | IC=1C=C(C#N)C=CC1 | C7H4IN
reactant | n-butanol | 4.0 mmol, 366 μL | C(CCC)O | C4H10O
catalyst | CuI | 0.10 mmol, 20 mg | [Cu]I
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 3-Butoxybenzonitrile | 152 mg, 87% yield | C(CCC)OC=1C=C(C#N)C=CC1 | C11H13NO
